US04304770
Sodium bicarbonate (0.84 g.) was added to a suspension of 2-(2-formamidothiazol-4-yl)glyoxylic acid (2 g.) in water (120 ml.) to prepare a solution. Ethyl 2-aminooxyacetate hydrochloride (4.56 g.) was added to the solution and stirred at ambient temperature for 3 hours while adjusting to pH 6 with sodium bicarbonate. The resultant solution was adjusted to pH 1.5 with hydrochloric acid, salted out and extracted with ethyl acetate three times. The extract was dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether, and the precipitates were collected by filtration and dried to give 2-ethoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.44 g.), mp. 112° C. (dec.).

reactant | Sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | Ethyl 2-aminooxyacetate hydrochloride | 4.56 g | Cl.NOCC(=O)OCC
reactant | hydrochloric acid | Cl | ClH
solvent | water | 120 ml | O | H2O
product | 2-ethoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 1.44 g | C(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C10H11N3O6S
